US06479608B1
1-t-Butyl-3-ethyl-3,5,5-trimethyl-piperazin-2-on (247)
In analogy to Example B21, 1,1-dimethyl-2-t-butylaminoethylamin, methylethylketon, chloroform and NaOH are reacted to give the raw title compound (99%) as an yellow oil.

reactant | 1,1-dimethyl-2-t-butylaminoethylamin | CC(CNC(C)(C)C)(C)N | C8H20N2
reactant | methylethylketon | CC(=O)CC | C4H8O
reactant | NaOH | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-t-Butyl-3-ethyl-3,5,5-trimethyl-piperazin-2-on | 99% | C(C)(C)(C)N1C(C(NC(C1)(C)C)(C)CC)=O | C13H26N2O
